US06703083B2
A Grignard reagent was prepared from 100 ml of THF, magnesium (120 mmole) and trans-1-pentyl-4-(trans-4-chloromethylcyclohexyl)cyclohexane (100 mmole) under nitrogen atmosphere. A THF 100 ml solution of tetramethoxysilane (150 mmole) was heated to 65° C., and the Grignard reagent was added dropwise thereto. Further, the solution was stirred at the same temperature for 2 hours, and after left standing for cooling, the reaction mixture was filtered. The solvent was distilled off, and then trans-1-pentyl-4-(trans-4-trimethoxysilylmethyl-cyclohexyl)cyclohexane (65 mmole) was obtained by distillation under reduced pressure.

reactant | magnesium | 120 mmole | [Mg] | Mg
reactant | trans-1-pentyl-4-(trans-4-chloromethylcyclohexyl)cyclohexane | 100 mmole | C(CCCC)[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)CCl | C18H33Cl
reactant | tetramethoxysilane | 150 mmole | CO[Si](OC)(OC)OC | C4H12O4Si
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | trans-1-pentyl-4-(trans-4-trimethoxysilylmethyl-cyclohexyl)cyclohexane | 65 mmole | C(CCCC)[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)C[Si](OC)(OC)OC | C21H42O3Si
